US05308854
Step C: Preparation of 2-methoxy-3-(2-phthalimidoethyl)-5-ethyl-6-methylpyridine
To a solution of crude 2-methoxy-3-(2-aminoethyl)-5-ethyl-6-methylpyridine (332 mg) in ethanol (7 mL) was added N-(carbethoxy) phthalimide (406 mg, 1.85 mmol). After stirring at ambient temperature for three hours the solvent was evaporated and the residue was chromatographed on silica gel by gradient elution with 20-100% ethyl acetate/hexane. The appropriate fractions were combined, the solvent evaporated and the residue triturated with hexane as the product slowly crystallized out to yield 202 mg of pure product, m.p. 77°-79° C.

reactant | 2-methoxy-3-(2-aminoethyl)-5-ethyl-6-methylpyridine | 332 mg | COC1=NC(=C(C=C1CCN)CC)C | C11H18N2O
reactant | N-(carbethoxy) phthalimide | 1.85 mmol, 406 mg | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 2-methoxy-3-(2-phthalimidoethyl)-5-ethyl-6-methylpyridine | 202 mg | COC1=NC(=C(C=C1CCN1C(C=2C(C1=O)=CC=CC2)=O)CC)C | C19H20N2O3
